US04569945
A mixture of 2-bromo-2-(p-chlorophenyl)-4-phenylindane-1,3-dione (0.3 g), silver nitrate (0.15 g) ethanol (3 ml) and water (3 ml) was heated under reflux for 2 hours. After cooling, the precipitated solid was filtered off. The solvent was removed from the filtrate under reduced pressure and the residual solid was chromatographed in silica. Recrystallisation from ethanol-water of the fraction eluted with ethyl acetate afforded 2-(p-chlorophenyl)-2-hydroxy-4-phenylindane-1,3-dione, m.p. 161-163.

reactant | 2-bromo-2-(p-chlorophenyl)-4-phenylindane-1,3-dione | 0.3 g | BrC1(C(C2=CC=CC(=C2C1=O)C1=CC=CC=C1)=O)C1=CC=C(C=C1)Cl | C21H12BrClO2
reactant | water | 3 ml | O | H2O
catalyst | silver nitrate | 3 ml, 0.15 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-(p-chlorophenyl)-2-hydroxy-4-phenylindane-1,3-dione | ClC1=CC=C(C=C1)C1(C(C2=CC=CC(=C2C1=O)C1=CC=CC=C1)=O)O | C21H13ClO3
